US09212190B2
To a 50-mL round-bottom flask containing a solution of tert-butyl N-(4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (940 mg, 2.17 mmol, 1.00 equiv) in freshly distilled DMF (6 mL) was added sodium hydride (60% dispersion in mineral oil, 347.3 mg) slowly at 0° C. under nitrogen. After the addition, the reaction mixture was stirred at room temperature for 30 min. Then 1-[(2-iodoethoxy)methyl]-4-methoxybenzene (2.535 g, 8.68 mmol, 4.00 equiv) was added to the mixture and stirred for 14 hrs at ambient temperature. The reaction was quenched slowly with saturated aqueous NH4Cl and extracted with 3×100 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) to give tert-butyl N-(4-[[(3S)-3-([2-[(4-methoxyphenyl)methoxy]ethoxy]methyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (700 mg, 54%) as a colorless oil. MS: m/z 598 (M+H)+.

reactant | tert-butyl N-(4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 2.17 mmol, 940 mg, 1.00 equiv | OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C22H31N3O4S
reactant | sodium hydride | 347.3 mg | [H-].[Na+]
reactant | 1-[(2-iodoethoxy)methyl]-4-methoxybenzene | 8.68 mmol, 2.535 g, 4.00 equiv | ICCOCC1=CC=C(C=C1)OC | C10H13IO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | tert-butyl N-(4-[[(3S)-3-([2-[(4-methoxyphenyl)methoxy]ethoxy]methyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 700 mg, 54% | COC1=CC=C(C=C1)COCCOC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C32H43N3O6S
